US05733918
Synthesis of 6-chloro-3-methyl-7H-indeno[2,1-c]quinoline-7-on
A mixture of 3-methyl-5H-indeno[2,1-c]quinoline-6,7-dion obtained in reference example 5 (700 mg, 2.7 mmol) and phosphorous oxychloride (10 ml, 107 mmol) was refluxed with heat for 1.5 hours. The reaction mixture was distilled to dryness. To the residue was added water to obtain a crystal precipitated by filtration. The crystal obtained was washed with water and dissolved in chloroform to filter off undissolved substances. Recrystallization from benzene to give 550 mg (yield 73.4%) of the title compound.

reactant | 3-methyl-5H-indeno[2,1-c]quinoline-6,7-dion | CC1=CC=C2C3=C(C(NC2=C1)=O)C(C1=CC=CC=C13)=O | C17H11NO2
reactant | phosphorous oxychloride | 107 mmol, 10 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 6-chloro-3-methyl-7H-indeno[2,1-c]quinoline-7-on | 550 mg, yield 73.4% | ClC1=NC2=CC(=CC=C2C2=C1C(C1=CC=CC=C12)=O)C | C17H10ClNO
